multisource_5R_network - fault test
V1 A 0 DC 10
V2 B 0 DC 15
I1 0 C DC 5
R1 A 0 1967.153552
R2 A B 1961.647196
R3 A C 1009.809892
R4 B C 1518.794666
C5 C 0 3.22e-06
.op
.control
run
print v(A) v(B) v(C)
print @r1[i] @r2[i] @r3[i] @r4[i]
print @i1[i]
.endc
.end
